US04898874
7-Ethyl-3-phenyl-2,1-benzisoxazole
A solution of 7.5 g (0.033 mole) of 3-ethyl-2-aminobenzophenone in 150 ml of acetic acid and 40 ml of 30% hydrogen peroxide was let stand at ambient temperature for 72 hr. The solution was poured into ice water and a solid gradually crystallized. The solid was collected by filtration, washed with water and dried. The solid was then slurried with 20 ml of carbon tetrachloride and the mixture was filtered.

reactant | 3-ethyl-2-aminobenzophenone | 0.033 mole, 7.5 g | C(C)C=1C(=C(C(=O)C2=CC=CC=C2)C=CC1)N | C15H15NO
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen peroxide | 40 ml | OO | H2O2
product | 7-Ethyl-3-phenyl-2,1-benzisoxazole | C(C)C1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C15H13NO
